US05859030
D1. 2-{[[4-(3-Chloropropylthio)-3-methoxy-2-pyridin-yl]methyl]thio}-1 H-benzimidazole dihydrochloride
2-Mercapto-1 H-benzimidazole (10 g) and 2-chloromethyl-4-(3-chloropropylthio)-3-methoxypyridine hydrochloride (1 equivalent) are stirred at 80° C. for 5 h in 150 ml of isopropanol and 15 ml of water, the mixture is cooled, and precipitated solid is filtered off and recrystallized from isopropanol/water. The title compound is obtained as a light brown powder; m.p. 117°-119° C. (dec.); yield: 67% of theory.

reactant | 2-Mercapto-1 H-benzimidazole | 10 g | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-(3-chloropropylthio)-3-methoxypyridine hydrochloride | 1 equivalent | Cl.ClCC1=NC=CC(=C1OC)SCCCCl
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | water | 15 ml | O | H2O
product | 2-{[[4-(3-Chloropropylthio)-3-methoxy-2-pyridin-yl]methyl]thio}-1 H-benzimidazole dihydrochloride | yield: 67% | Cl.Cl.ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | InChI=1S/C17H18ClN3OS2.2ClH/c1-22-16-14(19-9-7-15(16)23-10-4-8-18)11-24-17-20-12-5-2-3-6-13(12)21-17;;/h2-3,5-7,9H,4,8,10-11H2,1H3,(H,20,21);2*1H
